US04859229
using 3-(5-ethoxy-4-chloro-2-fluorophenyl)-6-trifluoromethyl- 2,4(1H,3H)-pyrimidinedione and dimethyl sulphate there is obtained 3-(5-ethoxy-4-chloro-2-fluorophenyl)-1-methyl-6 -trifluoromethyl-2,4(1H,3H)-pyrimidinedione, m.p. 118°-121° C.;

reactant | 3-(5-ethoxy-4-chloro-2-fluorophenyl)-6-trifluoromethyl- 2,4(1H,3H)-pyrimidinedione | C(C)OC=1C(=CC(=C(C1)N1C(NC(=CC1=O)C(F)(F)F)=O)F)Cl | C13H9ClF4N2O3
reactant | dimethyl sulphate | S(=O)(=O)(OC)OC | C2H6O4S
product | 3-(5-ethoxy-4-chloro-2-fluorophenyl)-1-methyl-6 -trifluoromethyl-2,4(1H,3H)-pyrimidinedione | C(C)OC=1C(=CC(=C(C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)Cl | C14H11ClF4N2O3
